US07947691B2
3-Amino-thiophene-2-carboxylic acid ethyl ester (2 grams, 12.7 mmol) and CDI (2.3 g, 14 mmol) were refluxed 20 mL in toluene overnight. O-Allyl hydroxylamine hydrochloride (1.7 g, 15.5 mmol) and Et3N (2.2 mL, 15.5 mmol) were added and solution was again brought to reflux for 3 hours. The solution was cooled, concentrated, and redissolved in 25 mL hot ethanol. NaOH was added (16 mL of a 2 M aq. solution) and the mixture was heated to reflux for 1 hour. The reaction mixture was acidified with 1 mL of glacial acetic acid and cooled. The resultant precipitate was filtered and discarded. The filtrate was concentrated, treated with 20 mL of ethanol, sonicated briefly, and then filtered to give 1.3 grams of 3-allyloxy-1H-thieno[3,2-d]pyrimidine-2,4-dione.

reactant | 3-Amino-thiophene-2-carboxylic acid ethyl ester | 12.7 mmol, 2 grams | C(C)OC(=O)C=1SC=CC1N | C7H9NO2S
reactant | CDI | 14 mmol, 2.3 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | O-Allyl hydroxylamine hydrochloride | 15.5 mmol, 1.7 g | Cl.C(C=C)ON
reactant | Et3N | 15.5 mmol, 2.2 mL | CCN(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-allyloxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | 1.3 grams | C(C=C)ON1C(NC2=C(C1=O)SC=C2)=O | C9H8N2O3S
